US07396844B1
Synthesis of 4-[4-(3-cyanophenoxy)butyryl]benzoic acid
500 mg (1.16 mmol) of 3-[3-[2-(4-bromophenyl)-5,5-dimethyl-1,3-dioxane-2-yl]propoxy]benzonitrile, 260 mg (1.4 mmol) of tributylamine and 42 mg (0.06 mmol) of bis(triphenylphosphine)palladium (II) chloride were stirred in 3 ml of 1-butanol and 5 ml of dimethylformamide at 100° C. in carbon monoxide atmosphere overnight. Ether was added to the reaction liquid. After washing with water, 0.5 N hydrochloric acid, saturated sodium hydrogencarbonate solution and saturated aqueous common salt solution, the reaction mixture was dried over anhydrous magnesium sulfate. The solvent was evaporated. 9 ml of 6 N hydrochloric acid solution and 9 ml of acetic acid were added to the residue, and the resultant mixture was heated under reflux for 4 hours. The solvent was evaporated. Saturated aqueous sodium hydrogencarbonate solution was added to the residue. The resultant mixture was washed with ethyl acetate, and the aqueous layer was made acidic with hydrogen chloride. After the extraction with ethyl acetate, the organic layer was washed with saturated aqueous common salt solution and then dried over anhydrous magnesium sulfate. The solvent was evaporated to obtain the crude title compound.

reactant | 3-[3-[2-(4-bromophenyl)-5,5-dimethyl-1,3-dioxane-2-yl]propoxy]benzonitrile | 1.16 mmol, 500 mg | BrC1=CC=C(C=C1)C1(OCC(CO1)(C)C)CCCOC=1C=C(C#N)C=CC1 | C22H24BrNO3
reactant | tributylamine | 1.4 mmol, 260 mg | C(CCC)N(CCCC)CCCC | C12H27N
reactant | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
reactant | Ether | CCOCC | C4H10O
solvent | 1-butanol | 3 ml | C(CCC)O | C4H10O
solvent | carbon monoxide | [C]=O | CO
catalyst | bis(triphenylphosphine)palladium (II) chloride | 0.06 mmol, 42 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 4-[4-(3-cyanophenoxy)butyryl]benzoic acid | C(#N)C=1C=C(OCCCC(=O)C2=CC=C(C(=O)O)C=C2)C=CC1 | C18H15NO4
